US07087579B2
To a solution of 4-({4-[4-(benzyloxy)phenyl]phenyl}methyl)-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.14 g) in methanol (3 mL) was added 10% palladium-carbon powder (0.030 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 11 hours. Insoluble materials were removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on aminopropyl silica gel (eluent: hexane/ethyl acetate=1/1-1/5-dichloromethane/methanol=10/1) to give 4-{[4-(4-hydroxyphenyl)phenyl]methyl}-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.071 g).

reactant | 4-({4-[4-(benzyloxy)phenyl]phenyl}methyl)-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.14 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C38H40N2O11
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium-carbon | 0.030 g | [C].[Pd]
product | 4-{[4-(4-hydroxyphenyl)phenyl]methyl}-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.071 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C31H34N2O11
